US08383644B2
(S)-3-{(S)-2-[4-(3,4-Dichloro-benzyloxy)-phenyl]-2,3-dihydro-benzo[1,4]dioxin-6-yl}-2-[(4-nitro-benzenesulfonyl)-((S)-1-phenyl-propyl)-amino]-propionic acid methyl ester
(S)-3-{(S)-2-[4-(3,4-Dichloro-benzyloxy)-phenyl]-2,3-dihydro-benzo[1,4]dioxin-6-yl}-2-(4-nitro-benzenesulfonylamino)-propionic acid methyl ester (1.6 g) was dissolved in 4 mL dry THF and 1247 mg triphenylphosphine and 650 μL (R)-(+)-1-phenyl-1-propanol were added. The mixture was stirred at 0° C. for 10 min, then 933 μL DIAD was added over 2 min. The reaction stirred at rt for 5 h, then was evaporated. The residue was purified by silica gel flash chromatography (9:1 to 8:2 hexanes/EtOAc) to give 1.8 g desired product after drying. 1H NMR (400 MHz, acetone-d6): 8.35 (m, 2H), 7.96 (m, 2H), 7.72 (d, 1H), 7.62 (d, 1H), 7.51-7.42 (m, 3H), 7.29 (m, 5H), 7.10 (m, 2H), 6.88-6.80 (m, 3H), 5.21 (s, 2H), 5.11 (m, 1H), 4.82 (m, 1H), 4.45 (m, 1H), 4.36 (m, 1H), 4.03 (m, 1H), 3.49 (m, 1H), 3.35 (s, 3H), 3.04 (m, 1H), 2.31 (m, 1H), 1.81 (m, 1H), 0.77 (t, 3H).

reactant | (S)-3-{(S)-2-[4-(3,4-Dichloro-benzyloxy)-phenyl]-2,3-dihydro-benzo[1,4]dioxin-6-yl}-2-(4-nitro-benzenesulfonylamino)-propionic acid methyl ester | 1.6 g | COC([C@H](CC1=CC2=C(O[C@H](CO2)C2=CC=C(C=C2)OCC2=CC(=C(C=C2)Cl)Cl)C=C1)NS(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-])=O | C31H26Cl2N2O9S
reactant | triphenylphosphine | 1247 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | (R)-(+)-1-phenyl-1-propanol | 650 μL | C1(=CC=CC=C1)[C@@H](CC)O | C9H12O
reactant | DIAD | 933 μL | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | (S)-3-{(S)-2-[4-(3,4-Dichloro-benzyloxy)-phenyl]-2,3-dihydro-benzo[1,4]dioxin-6-yl}-2-[(4-nitro-benzenesulfonyl)-((S)-1-phenyl-propyl)-amino]-propionic acid methyl ester | 1.8 g | COC([C@H](CC1=CC2=C(O[C@H](CO2)C2=CC=C(C=C2)OCC2=CC(=C(C=C2)Cl)Cl)C=C1)N([C@@H](CC)C1=CC=CC=C1)S(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-])=O | C40H36Cl2N2O9S
